US07501413B2
Step 1: (Z)-3-(4-chloro-phenylcarbamoyl)-acrylic acid
A solution of 29.3 g (300 mmol) of maleic anhydride in 500 ml of acetonitrile was treated portionwise with 40 g (310 mmol) of 4-chloroaniline and stirred at room temperature during 24 hrs. The thick precipitate that had formed was filtered off, washed with cold acetonitrile and dried i.v. to yield 65.7 g (97%)of the title compound. Yellow solid. MS: 226 (M+H)+.

reactant | maleic anhydride | 300 mmol, 29.3 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | 4-chloroaniline | 310 mmol, 40 g | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | (Z)-3-(4-chloro-phenylcarbamoyl)-acrylic acid | 65.7 g, 97% | ClC1=CC=C(C=C1)NC(=O)\C=C/C(=O)O | C10H8ClNO3
